US06147031
To 2.75 g of 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid were added 30 ml of benzene, then 1.7 ml of thionyl chloride and a drop of pyridine to heat at reflux for 3 hours. The reaction solution was cooled down. The solvent was distilled out under reduced pressure to give 2.90 g of 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl chloride. Separately 0.93 g of 5-hydroxy-1-methylpyrazole hydrochloride was dissolved in 20 ml of chloroform, and 1.60 g of triethylamine was added, while cooling with ice. Into the obtained solution was added dropwise 10 ml of a chloroform solution containing 1.90 g of 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl chloride to stir at room temperature for 30 minutes, and 0. 76 g of triethylamine and 0.16 g of acetone cyanohydrin were added to further stir overnight. The reaction solution was washed with dilute hydrochloric acid, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure. Methanol was added to the residue. The obtained crystals were separated by filtration to give 1.59 g of the title compound as white crystals. m.p. 224~226° C.

reactant | 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid | 2.75 g | O1N=C(CC1)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H13NO5S
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 1.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl chloride | 2.90 g | O1N=C(CC1)C=1C(=C(C(=O)Cl)C=CC1S(=O)(=O)C)C | C12H12ClNO4S
